US08357693B2
4-chloro-2-(3-fluoro-4-(phenyl)phenyl)-7-methoxyquinazolin-6-yl acetate
A suspension of 2-(3-fluoro-4-(phenyl)phenyl)-7-methoxy-4-oxo-3,4-dihydroquinazolin-6-yl acetate (3.0 g, 7.42 mmol) in SOCl2 (60 mL) with DMF (1.4 mL) was heated at reflux for 5 h. the mixture was allowed to cool to RT and the volatiles were removed in vacuo. The residue was taken up in CHCl3 (300 mL) and washed with water (100 mL), sat. NaHCO3 (100 mL), water (100 mL) and brine (100 mL). The organic layer was dried (Na2SO4), filtered and concentrated in vacuo to give the desired product 4-chloro-2-(3-fluoro-4-(phenyl)phenyl)-7-methoxyquinazolin-6-yl acetate (3.14 g, 7.42 mmol, 100%). HPLC retention time 11.30 minutes (5-95-13 method).

reactant | 2-(3-fluoro-4-(phenyl)phenyl)-7-methoxy-4-oxo-3,4-dihydroquinazolin-6-yl acetate | 7.42 mmol, 3.0 g | C(C)(=O)OC=1C=C2C(NC(=NC2=CC1OC)C1=CC(=C(C=C1)C1=CC=CC=C1)F)=O | C23H17FN2O4
reactant | DMF | 1.4 mL | CN(C)C=O | C3H7NO
reactant | SOCl2 | 60 mL | O=S(Cl)Cl | Cl2OS
product | 4-chloro-2-(3-fluoro-4-(phenyl)phenyl)-7-methoxyquinazolin-6-yl acetate | 7.42 mmol, 3.14 g, 100% | C(C)(=O)OC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=C(C=C1)C1=CC=CC=C1)F)Cl | C23H16ClFN2O3
